US07012089B2
2-(2-Bromo-ethyl)-1-chloro-3-nitro-benzene
To a solution of 2-(2-chloro-6-nitrophenyl)ethanol (33.0 g, 0.16 mole) in methylene chloride (500 mL) was added triphenylphosphine (43.0 g, 0.16 mole) and the mixture was cooled to 0° C. Carbon tetrabromide (54.4 g, 0.16 mole) in methylene chloride (100 mL) was added dropwise through an addition funnel. The reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue purified by flash column chromatography (silica gel, ethyl acetate:hexanes 1:9) to provide 39.0 g of the title compound as a yellow solid. 1H NMR (CDCl3): 7.70 δ (d, 1H); 7.60 δ (d, 1H); 7.35 δ (t, 1H); 3.60 δ (t, 2H); 3.45 δ (t, 2H).

reactant | 2-(2-chloro-6-nitrophenyl)ethanol | 0.16 mole, 33.0 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCO | C8H8ClNO3
reactant | triphenylphosphine | 0.16 mole, 43.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Carbon tetrabromide | 0.16 mole, 54.4 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Bromo-ethyl)-1-chloro-3-nitro-benzene | 39.0 g | BrCCC1=C(C=CC=C1[N+](=O)[O-])Cl | C8H7BrClNO2
